US07759349B2
3-Propoxy-5H-4,4a, 10-triaza-indeno[2,1-a]indene (Compound 123)
A stirred mixture of 6-propoxypyridazin-3-amine (145 mg) and 2-bromo-1-indanone (200 mg) in ethanol (10 mL) was heated under reflux for 3 hours. The mixture was cooled and sodium bicarbonate (80 mg) was added. The mixture was stirred refluxed for 1 hour and then the ethanol was evaporated. The residue was extracted with chloroform and the extract washed with saturated, aqueous, sodium chloride solution, dried (MgSO4) and evaporated. The residue was purified by flash chromatography on silica gel. Elution with 1-2% methanol in dichloromethane afforded Compound 123 (30 mg) as a white solid. 1H n.m.r. (CDCl3) δ 1.12, t, 3H; 1.87, sextet, 2H; 3.85, s, 2H; 4.30, t, 2H; 6.64, d, 1H; 7.30, d, 1H; 7.40, t, 1H; 7.53, d, 1H; 7.80-7.88, m, 2H.

reactant | 6-propoxypyridazin-3-amine | 145 mg | C(CC)OC1=CC=C(N=N1)N | C7H11N3O
reactant | 2-bromo-1-indanone | 200 mg | BrC1C(C2=CC=CC=C2C1)=O | C9H7BrO
reactant | sodium bicarbonate | 80 mg | C([O-])(O)=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-Propoxy-5H-4,4a, 10-triaza-indeno[2,1-a]indene | C(CC)OC=1C=CC2=NC3=C(CC4=CC=CC=C34)N2N1 | C16H15N3O
